US04749687
N-hydroxybenzotriazole (324 mg., 2.4 mmoles), N-methyl-morpholine (202 mg., 2 mmoles), L-glutamic acid dibenzyl ester p-toluenesulfonate (995 mg., 2 mmoles), N-(t-butyloxycarbonyl)-statine (660 mg., 2.4 mmoles) and 1-cyclohexyl-3-(2-morpholinoethyl)carbodiimide metho p-toluene sulfonate (1271 mg., 80% pure, 2.4 mmoles) were sequentially dissolved in methylene chloride (100 ml.) at 0° C. and the resulting solution stirred for 19 hours at 20° C. The reaction mixture was then washed consecutively with 5.5% aqueous HCl, saturated aqueous NaHCO3 solution and brine, and dried over anhydrous MgSO4After filtration and evaporation, 1269 g. of crude [N-(t-butyloxycarbonyl)statine]-glutamic acid dibenzyl ester was obtained as an oil (lH NMR, CDCl3, 5.2 delta, 2H s [benzyl CH2 ]). This oil (1269 g.) was dissolved in 10 ml. of 3.7N HCl/dioxane and the resulting solution allowed to stand for one hour at room temperature. The solution was then evaporated under high vacuum to a residue, which was triturated in ether and dried with nitrogen to yield 900 mg. of statine-glutamic acid dibenzyl ester hydrochloride as a foam (lH NMR, CDCl3, 5.2 delta, 2H s [benzyl CH2 ]). N-hydroxybenzotriazole (186 mg., 1.38 mmoles), N-methyl-morpholine (116 mg., 1.15 mmoles), a quantity of the statine-glutamic acid dibenzyl ester hydrochloride foam formed above (600 mg., 1.15 mmoles), N-(t-butyloxycarbonyl)-L-alanine (261 mg., 1.38 mmoles) and 1-cyclohexyl-3-(2-morpholinoethyl)-carbodiimide metho p-toluene sulfonate (732 mg., 80% pure, 1.38 mmoles) were sequentially dissolved in methylene chloride (60 ml.) at 0° C. and the resulting solution stirred for 19 hours at 20° C. The reaction mixture was then washed consecutively with 5.5% aqueous HCl, saturated aqueous NaHCO3 solution and brine, and dried over anhydrous MgSO4After filtration and evaporation, 743 mg. of crude product was obtained as a foam (lH NMR, CDCl3, 5.2 delta, 2H s [benzyl CH2 ]).

reactant | N-hydroxybenzotriazole | 2.4 mmoles, 324 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methyl-morpholine | 2 mmoles, 202 mg | CN1CCOCC1 | C5H11NO
reactant | L-glutamic acid dibenzyl ester p-toluenesulfonate | 2 mmoles, 995 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC([C@@H](N)CCC(=O)OCC1=CC=CC=C1)=O
reactant | N-(t-butyloxycarbonyl)-statine | 2.4 mmoles, 660 mg | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)[C@@H](O)CC(O)=O | C13H25NO5
reactant | 1-cyclohexyl-3-(2-morpholinoethyl)carbodiimide metho p-toluene sulfonate | 2.4 mmoles, 1271 mg | CC1=CC=C(C=C1)S(=O)(=O)[O-].C[N+]1(CCOCC1)CCN=C=NC2CCCCC2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | [N-(t-butyloxycarbonyl)statine]-glutamic acid dibenzyl ester | C(C1=CC=CC=C1)OC([C@@H](N)CCC(=O)OCC1=CC=CC=C1)=O.C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)[C@@H](O)CC(O)=O | InChI=1S/C19H21NO4.C13H25NO5/c20-17(19(22)24-14-16-9-5-2-6-10-16)11-12-18(21)23-13-15-7-3-1-4-8-15;1-8(2)6-9(10(15)7-11(16)17)14-12(18)19-13(3,4)5/h1-10,17H,11-14,20H2;8-10,15H,6-7H2,1-5H3,(H,14,18)(H,16,17)/t17-;9-,10-/m00/s1
